US07259183B2
Preparation of [4-(1-methylcyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 4-(1-methyl-cyclo-propyl)-benzaldehyde (150 mg, 0.94 mmol), 2-(3-trifluoromethylphenyl)-ethylamine (177 mg, 0.94 mmol) and sodium borohydride (53 mg, 1.40 mmol). The isolated residue was purified by flash column chromatography (2%-5% MeOH in EtOAc) to give the desired product (195 mg, 62%) as a colorless oil. MS (ISP) 334.3 (M+H)+.

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-(1-methyl-cyclo-propyl)-benzaldehyde | 0.94 mmol, 150 mg | CC1(CC1)C1=CC=C(C=O)C=C1 | C11H12O
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.94 mmol, 177 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 1.40 mmol, 53 mg | [BH4-].[Na+]
product | [4-(1-methylcyclopropyl)-benzyl]-[2-(3-trifluoromethylphenyl)-ethyl]-amine | 195 mg, 62% | CC1(CC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C20H22F3N
